US04395406
(a) 5-Fluoro-4-thiouracil
Prepared from 5-fluorouracil by the method of Ueda and Fox (see above) using phosphorus pentasulphide in pyridine. We find that dioxan is a better solvent in this reaction in which case the yield was 80% of a more pure product.

reactant | 5-fluorouracil | FC=1C(NC(NC1)=O)=O | C4H3FN2O2
reactant | phosphorus pentasulphide | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | dioxan | O1CCOCC1 | C4H8O2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 5-Fluoro-4-thiouracil | yield was 80% | FC=1C(NC(NC1)=O)=S | C4H3FN2OS
